US07557127B2
To a solution of tert-butyl (3R)-3-({5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-piperidinecarboxylate (6.26 g) in a mixture of 1,4-dioxane (25 mL) and MeOH (5 mL) was added 4N hydrogen chloride solution in ethyl acetate (30 mL) in water bath. The mixture was stirred at same temperature for 3 hrs. After evaporation of solvent, the residue was triturated with isopropylether to give ethyl (2E)-3-{5-[(3R)-3-piperidinylamino]-2-pyrazinyl}acrylate dihydrochloride (5.8 g) as an amorphous powder. 1H-NMR (300 MHz, DMSO-d6) δ 1.25 (3H, t, J=7 Hz), 1.46-1.65 (1H, m), 1.65-1.85 (1H, m), 1.85-2.06 (3H, m), 2.66-3.00 (2H, m), 3.05-3.25 (1H, m), 3.25-3.41 (1H, m), 4.18 (2H, q, J=7 Hz), 6.54 (1H, d, J=15 Hz), 7.57 (1H, d, J=15 Hz), 7.95-8.19 (2H, m), 8.28 (1H, s), 9.14 (2H, br peak)

reactant | tert-butyl (3R)-3-({5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-piperidinecarboxylate | 6.26 g | C(C)OC(/C=C/C=1N=CC(=NC1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C)=O | C19H28N4O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl (2E)-3-{5-[(3R)-3-piperidinylamino]-2-pyrazinyl}acrylate dihydrochloride | 5.8 g | Cl.Cl.N1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC | InChI=1S/C14H20N4O2.2ClH/c1-2-20-14(19)6-5-11-9-17-13(10-16-11)18-12-4-3-7-15-8-12;;/h5-6,9-10,12,15H,2-4,7-8H2,1H3,(H,17,18);2*1H/b6-5+;;/t12-;;/m1../s1
